US05739387
Methyl (4S, 5R)-5-(3,4-dibenzyloxyphenyl)-2-phenyl-2-oxazoline-4-carboxylate (157 mg, 0.50 mmol), was added to 1N-hydrochloric acid (5 ml) with stirring, and the mixture was refluxed for 17 hours. After cooling to room temperature, the reaction mixture was washed with ether and neutralized with 1N sodium hydroxide to obtain precipitated crystals. The precipitated crystal then was filtered to obtain 76 mg (0.36 mmol, yield: 71%) of L-threo DOPS.

reactant | Methyl (4S, 5R)-5-(3,4-dibenzyloxyphenyl)-2-phenyl-2-oxazoline-4-carboxylate | 0.50 mmol, 157 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)[C@@H]1[C@H](N=C(O1)C1=CC=CC=C1)C(=O)OC | C31H27NO5
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | L-threo DOPS | 0.36 mmol, 76 mg, yield: 71% | C1=CC(=C(C=C1[C@H]([C@@H](C(=O)O)N)O)O)O | C9H11NO5
